US07790720B2
A mixture of 4-(3-chloropropoxy)benzamide ax54 (3.55 g, 16.6 mmol, 1 eq) and ethyl bromopyruvate (3.24 g, 16.6 mmol, 1 eq) in propionitrile (60 ml) is heated at reflux. After 24 h, the solvent is evaporated, and the residue is taken up in ethyl acetate and washed two times with an aqueous solution of sodium hydrogenocarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated under vacuum. Purification by chromatography over silicagel (eluent: dichloromethane/hexane 90:10) affords 2.12 g of ethyl 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylate i33.

reactant | 4-(3-chloropropoxy)benzamide | ClCCCOC1=CC=C(C(=O)N)C=C1 | C10H12ClNO2
reactant | ethyl bromopyruvate | 16.6 mmol, 3.24 g, 1 eq | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | propionitrile | 60 ml | C(CC)#N | C3H5N
product | ethyl 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylate | 2.12 g, Yield: 41% | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)C(=O)OCC | C15H16ClNO4
